US06384080B1
A mixture of copper(I) chloride (464 mg) and palladium(II) chloride (83.2 mg) in a mixture of dimethylformamide (42 mL) and water (6 mL) was stirred for an hour under oxygen atmosphere (1 atm) at ambient temperature. To the mixture was added N-(4-chloro-3-methoxybenzyl)-2-fluoro-5-vinylbenzamide (1.50 g). After stirring for 6 hours at 60° C., the mixture was partitioned between ethyl acetate and 1N-hydrochoric, acid. The separated organic layer was washed with water, an aqueous saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of hexane and ethyl acetate (2:1 to 1:1) to give 5-acetyl-2-fluoro-N-(4-chloro-3-methoxybenzyl)benzamide as colorless powders (719 mg).

reactant | N-(4-chloro-3-methoxybenzyl)-2-fluoro-5-vinylbenzamide | 1.50 g | ClC1=C(C=C(CNC(C2=C(C=CC(=C2)C=C)F)=O)C=C1)OC | C17H15ClFNO2
reactant | dimethylformamide | 42 mL | CN(C=O)C | C3H7NO
solvent | water | 6 mL | O | H2O
catalyst | copper(I) chloride | 464 mg | [Cu]Cl
catalyst | palladium(II) chloride | 83.2 mg | [Pd](Cl)Cl
product | 5-acetyl-2-fluoro-N-(4-chloro-3-methoxybenzyl)benzamide | 719 mg | C(C)(=O)C=1C=CC(=C(C(=O)NCC2=CC(=C(C=C2)Cl)OC)C1)F | C17H15ClFNO3
